US06498251B1
Synthesis Example 6c 1-Methyl-1H-benz[cd]indol-2-one
1H-Benz[cd]indol-2-one (5.1 g, 30 mmol) was dissolved in anhydrous N,N-dimethylformamide (100 ml), and the solution was mixed with sodium hydride (60%, 1.2 g, 30 mmol) and stirred in an ice bath for 20 minutes. The reaction solution was mixed with methyl iodide (2.6 ml, 42 μmmol) and again stirred at room temperature for 1 hour. Ethyl acetate and water were added to the reaction solution. The reaction product was extracted with ethyl acetate, washed with saturated brine and dried with anhydrous sodium sulfate, the solvent was removed by evaporation under a reduced pressure, and then the thus obtained material was separated and purified by a silica gel column chromatography to obtain 4.7 g (26 mmol, 74% in yield) of the title compound.

reactant | 1H-Benz[cd]indol-2-one | 30 mmol, 5.1 g | N1C(C2=C3C(C=CC=C13)=CC=C2)=O | C11H7NO
reactant | sodium hydride | 30 mmol, 1.2 g | [H-].[Na+]
reactant | methyl iodide | 2.6 ml | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Methyl-1H-benz[cd]indol-2-one | CN1C(C2=C3C(C=CC=C13)=CC=C2)=O | C12H9NO
